2132-03-04 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2132-3-4**] 03:00 AM
 URINE CULTURE - At [**2132-3-4**] 05:29 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2132-3-4**] 02:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-4**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 90 (52 - 90) bpm
   BP: 131/57(76) {85/43(57) - 153/60(81)} mmHg
   RR: 26 (15 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,360 mL
   Urine:
   1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,360 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 40%
   SpO2: 93%
   ABG: 7.31/78.[**Numeric Identifier 244**]/90.[**Numeric Identifier 128**]/37/8
   Ve: 7.2 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   216 K/uL
   8.7 g/dL
   236 mg/dL
   1.0 mg/dL
   37 mEq/L
   5.1 mEq/L
   30 mg/dL
   95 mEq/L
   139 mEq/L
   26.8 %
   6.4 K/uL
        [image002.jpg]
                             [**2132-3-4**]  03:15 AM
                             [**2132-3-4**]  03:23 AM
                             [**2132-3-4**]  03:37 AM
                             [**2132-3-4**]  05:22 AM
   WBC
   6.4
   Hct
   26.8
   Plt
   216
   Cr
   1.0
   TCO2
   40
   39
   42
   Glucose
   236
   Other labs: PT / PTT / INR:14.5/24.9/1.3, Differential-Neuts:88.9 %,
   Lymph:7.2 %, Mono:3.1 %, Eos:0.5 %, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2132-3-4**] 02:13 AM
   18 Gauge - [**2132-3-4**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2132-03-05 07:36:00 Physician Resident Progress Note
Chief Complaint: Respiratory Distress
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2132-3-4**] 01:39 PM
 NON-INVASIVE VENTILATION - START [**2132-3-5**] 01:00 AM
 NON-INVASIVE VENTILATION - STOP [**2132-3-5**] 05:39 AM
   -Called out to the floor, desatted and more subjectively dyspneic in
   the afternoon and at that point chest radiograph was stable.  Wheezing
   so PO steroids were restarted.
   -Later in the afternoon desatted again to mid 80's and two ABG's showed
   improvement of her hypercarbia but worsened hypoxemia not well resolved
   on BiPAP.  Actually improved to mid 90's after readjustment of shovel
   mask.
   -Ordered for echo in AM (need to call re: bubble study) to rule out
   shunt given chronic hypoxemia (will call TEE fellow in AM)
   -Got VERY agitated in the evening eventually requiring 3.5 mg of
   haloperidol, 5mg olanzapine, and 1 mg lorazepam followed by sleep
   -woke up 1-2 hours later started becoming agitated again, reordered
   lorazepam
   -at MN was 200 cc negative and decision was made to not diurese further
   so as to not agitate patient further
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-3-4**] 08:00 AM
   Haloperidol (Haldol) - [**2132-3-4**] 08:40 PM
   Heparin Sodium (Prophylaxis) - [**2132-3-4**] 11:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-5**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 66 (55 - 107) bpm
   BP: 124/56(72) {99/43(51) - 137/65(76)} mmHg
   RR: 21 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    360 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,260 mL
                                                                    580 mL
   Urine:
                                                                  4,260 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,900 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.45/62/52/45/15
   Ve: 10.3 L/min
   PaO2 / FiO2: 104
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, agitated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   scattered, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Normal
   Labs / Radiology
   258 K/uL
   9.2 g/dL
   229 mg/dL
   1.0 mg/dL
   45 mEq/L
   4.2 mEq/L
   35 mg/dL
   96 mEq/L
   146 mEq/L
   27.9 %
   5.6 K/uL
        [image002.jpg]
                             [**2132-3-4**]  03:15 AM
                             [**2132-3-4**]  03:23 AM
                             [**2132-3-4**]  03:37 AM
                             [**2132-3-4**]  05:22 AM
                             [**2132-3-4**]  04:35 PM
                             [**2132-3-4**]  05:21 PM
                             [**2132-3-5**]  03:44 AM
   WBC
   6.4
   5.6
   Hct
   26.8
   27.9
   Plt
   216
   258
   Cr
   1.0
   1.0
   TCO2
   40
   39
   42
   45
   44
   Glucose
   236
   229
   Other labs: PT / PTT / INR:14.5/24.9/1.3, Differential-Neuts:88.9 %,
   Lymph:7.2 %, Mono:3.1 %, Eos:0.5 %, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   73 y/o woman w/Diabetes, Chronic obstructive pulmonary disease,
   coronary artery disease, admitted to the [**Hospital Unit Name 44**] with hypercarbic
   respiratory failure.
   # Hypercarbia: Patient
s hypercarbia is currently at her baseline and
   her PCO2 of 62 is consistent with her previous best values obtained
   here.  Unfortunately, she is intermittently quite sedated after
   receiving multiple psychiatric meds last night.
   -Low index to repeat ABG
s if mental status changes
   -BiPAP PRN for hypercarbia
   #Hypoxemia: The patient desaturated to the 80
s multiple times
   yesterday and this did not appear to consistently improve with NPPV (in
   fact seemed to worsen).   Unclear what the etiology of this could be
   though concern for pulmonary hypertension vs shunt.
   -Obtain echocardiogram with bubble study to look for shunt
   -Continue to treat potential pneumonia w/ five day course of
   levofloxacin (completed today)
   #Metabolic alkalosis: The patient appears to have a chronic metabolic
   alkalosis as compensation for her metabolic acidosis.  This is worsened
   today.  Primary concern is for a contraction alkalosis potentially
   worsened by volume contraction and relative [**Name (NI) 7867**] state
   due to steroids.
   -Check urine Cl
   -If urine Cl low we will presume this is primarily contraction
   alkalosis and use acetazolamide to bridge until volume status improved
   in order to augment respiratory drive and not push further
   hypoventilation.
   #Delirium/AMS: Probably multifactorial with schizophrenia on multiple
   medications, hypoxemia, steroids, and ICU status.   Given the patient
   repeated attempts to climb out of bed yesterday was sedated due to
   concerns for safety and agitation augmenting respiratory distress.   So
   far no localizing sources of infection except possibly lung (urine
   clear, no indication of other source)
   -Minimize further sedation, wean steroids to 10 mg prednisone PO daily
   -Attempt to redirect and use restraints PRN
   -Fix discrepancies between home and in house med regimens (aripiprazole
   to QHS, increase sertraline, etc
   -Hold off [**Female First Name (un) 1290**]/psych evaluation until respiratory issues improved
   # Acute on Chronic Diastolic Congestive Heart Failure: Patient is
   nearly 4L negative over hospitalization and quick diuresis probably
   contributing to acid-base disturbance.  Now back on home diuretic
   dose.
   -aim for net equal fluid balance
   # Coronary Artery Disease:   cont ASA, statin, metoprolol short acting
   #Schizophrenia: Continue home med regimen
   DM: Hold oral hypoglycemics. QID FS and ISS.
   .
   Hypothyroidism: Continue levothyroxine
   Schizophrenia: continue psych meds
   .
   FEN: replete lytes PRN, general diet
   .
   PPX: HSC, bowel regmine
   .
   ACCESS: PIV
   CODE: Per daughter DNR/[**Name2 (NI) 329**], but has ICD in place
   CONTACT: Daughter [**Name2 (NI) 5657**] [**Name2 (NI) 5658**] [**Telephone/Fax (1) 5659**]
   Dispo: ICU pending improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2132-3-4**] 02:13 AM
   18 Gauge - [**2132-3-4**] 02:14 AM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2132-03-05 10:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2132-3-4**] 01:39 PM
 NON-INVASIVE VENTILATION - START [**2132-3-5**] 01:00 AM
 NON-INVASIVE VENTILATION - STOP [**2132-3-5**] 05:39 AM
   -Patient with start of wheezing and with significant response to
   bronchodilators
   -She did have intermittent hypoxemia noted in the absence of worsening
   hypoventilation and with worsening on BIPAP concern raised for possible
   extrapulmonary shunt or worening pulmonary hypertension contributing
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2132-3-4**] 08:40 PM
   Heparin Sodium (Prophylaxis) - [**2132-3-4**] 11:47 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2132-3-5**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 58 (55 - 107) bpm
   BP: 110/34(53) {99/34(51) - 137/65(76)} mmHg
   RR: 22 (15 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
                  Total In:
                                                                    360 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,260 mL
                                                                    780 mL
   Urine:
                                                                  4,260 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,900 mL
                                                                   -780 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.42/76.[**Numeric Identifier 128**]/57/45/19
   Ve: 10.3 L/min
   PaO2 / FiO2: 114
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Absent), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   258 K/uL
   229 mg/dL
   1.0 mg/dL
   45 mEq/L
   4.2 mEq/L
   35 mg/dL
   96 mEq/L
   146 mEq/L
   27.9 %
   5.6 K/uL
        [image002.jpg]
                             [**2132-3-4**]  03:15 AM
                             [**2132-3-4**]  03:23 AM
                             [**2132-3-4**]  03:37 AM
                             [**2132-3-4**]  05:22 AM
                             [**2132-3-4**]  04:35 PM
                             [**2132-3-4**]  05:21 PM
                             [**2132-3-5**]  03:44 AM
                             [**2132-3-5**]  08:21 AM
   WBC
   6.4
   5.6
   Hct
   26.8
   27.9
   Plt
   216
   258
   Cr
   1.0
   1.0
   TCO2
   40
   39
   42
   45
   44
   51
   Glucose
   236
   229
   Other labs: PT / PTT / INR:14.5/24.9/1.3, Differential-Neuts:88.9 %,
   Lymph:7.2 %, Mono:3.1 %, Eos:0.5 %, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   73 yo female with chronic and acute respiratory failure in the setting
   of COPD and schizophrenia.  This has been complicated by recurrent and
   significant hypoxemia which has had limited capacity for complete
   resolution with BIPAP support alone.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)-
 RESPIRATORY FAILURE, CHRONIC
   -BIPAP support to continue
   -Will evalate for PAH and or extrapulmonary shunt as possible source of
   persistent hypoxemia
   -We are in a state now of metabolic alkalosis relative to recent
   numbers-will look to urine Cl- to evaluate for source of alkalosis
   -Will need to stabilize HCO3- to allow equilibration
   -Will need to minimize sedating medications
   -Will decrease steroid dosing which was restarted but in the setting of
   agitation, altered mental status, metabolic alkalosis and need to
   adequately support her ventilation
Pred to 10mg today
   -Levofloxacin completed today
   Hypoxemia-
   -Echo today
   -o2 as needed
   -Concern for right heart failure in the setting of persistent hypoxemia
   with PAH a significant concern
   Schizophrenia-
   -Continue chronic medications including Zoloft
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2132-3-4**] 02:13 AM
   18 Gauge - [**2132-3-4**] 02:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2132-03-06 11:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2132-3-6**] 12:10 AM
 NON-INVASIVE VENTILATION - STOP [**2132-3-6**] 01:57 AM
 NON-INVASIVE VENTILATION - START [**2132-3-6**] 04:27 AM
 NON-INVASIVE VENTILATION - STOP [**2132-3-6**] 05:20 AM
   ECHO-EF preserved and significant suspicion for PAH but poor quality
   study
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-3-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2132-3-6**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 80 (53 - 94) bpm
   BP: 122/45(63) {95/31(48) - 141/65(78)} mmHg
   RR: 23 (16 - 32) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    300 mL
                                                                    800 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    200 mL
                                                                    800 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                  1,180 mL
   Urine:
                                                                  2,660 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,360 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 35%
   SpO2: 87%
   ABG: ///46/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   241 K/uL
   154 mg/dL
   1.0 mg/dL
   46 mEq/L
   3.8 mEq/L
   38 mg/dL
   95 mEq/L
   148 mEq/L
   30.3 %
   6.9 K/uL
        [image002.jpg]
                             [**2132-3-4**]  03:15 AM
                             [**2132-3-4**]  03:23 AM
                             [**2132-3-4**]  03:37 AM
                             [**2132-3-4**]  05:22 AM
                             [**2132-3-4**]  04:35 PM
                             [**2132-3-4**]  05:21 PM
                             [**2132-3-5**]  03:44 AM
                             [**2132-3-5**]  08:21 AM
                             [**2132-3-6**]  04:32 AM
   WBC
   6.4
   5.6
   6.9
   Hct
   26.8
   27.9
   30.3
   Plt
   [**Telephone/Fax (3) 7888**]
   Cr
   1.0
   1.0
   1.0
   TCO2
   40
   39
   42
   45
   44
   51
   Glucose
   [**Telephone/Fax (3) 7889**]
   Other labs: PT / PTT / INR:14.5/24.9/1.3, Differential-Neuts:88.9 %,
   Lymph:7.2 %, Mono:3.1 %, Eos:0.5 %, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.4 mg/dL
   Imaging: CXR--no change
   Assessment and Plan
   73 yo female with hypercarbic respiratory failure now with some
   improved agitation O/N and only able to tolerate BIPAP intermittently.
   She has maintained adequate oxygenation only with supplemental
   oxygen--she has shown some capacity for diuresis as evidenced by fluid
   balance negative x 2 liters yesterday.  This would argue for continued
   need of BIPAP and in the setting of control of both reactive airways
   disease (which may have been triggered by pulmonary edema or frank
   reactive airways disease) and continued ventilatory support she has
   shown a capacity to maintain improved oxygenation and mental status.
   1)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -Complete course and patient with minimal evidence of persistent active
   infection
   2)
 RESPIRATORY FAILURE, CHRONIC-
   -BIPAP to continue
   -Continue negative fluid balance
   -Minimize O2 as possible today.
   -Pred 10mg qd
   -Diamox to continue
   3)Metabolic Alkalosis-
   -Elevated Urine Cl
unlikely contractio
   -Will need to correct with Diamox
   ICU Care
   Nutrition: po diet to continue
   Glycemic Control:  Insulin SS
   Lines:
   16 Gauge - [**2132-3-4**] 02:13 AM
   18 Gauge - [**2132-3-5**] 02:00 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
TO Floor
   Total time spent: 35 minutes